US04171367
2(4-Bromo-1,3-diphenyl-5-pyrazolyl) amino-2-imidazoline hydrobromide
2(1,3-diphenyl-5-pyrazolyl) amino-2-imidazoline (6.0 g.) was treated with 3.2 g. bromine as described in Example III to give 8.85 g. of the product, mp 273° C., decomposed.

reactant | 2(1,3-diphenyl-5-pyrazolyl) amino-2-imidazoline | 6.0 g | C1(=CC=CC=C1)N1N=C(C=C1NC=1NCCN1)C1=CC=CC=C1 | C18H17N5
reactant | bromine | BrBr | Br2
product | 2(4-Bromo-1,3-diphenyl-5-pyrazolyl) amino-2-imidazoline hydrobromide | Br.BrC=1C(=NN(C1NC=1NCCN1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C18H16BrN5.BrH/c19-15-16(13-7-3-1-4-8-13)23-24(14-9-5-2-6-10-14)17(15)22-18-20-11-12-21-18;/h1-10H,11-12H2,(H2,20,21,22);1H
